US07897607B2
1-(6-Mesitylpyridin-2-yl)pentan-2-one
1-(6-Mesitylpyridin-2-yl)pentan-2-ol (2.91 g, 10.3 mmol) in 100 mL of dichloromethane and 20 mL of acetonitrile was combined with 4 angstrom crushed molecular sieves (2.5 g) and N-methylmorpholine-N-oxide (1.80 g, 15.4 mmol). Tetrapropylammonium perruthenate (0.54 g, 1.54 mmol) was added last. The reaction stirred at room temperature for 1 h. The reaction was filtered and concentrated. Flash chromatography (10% ethyl acetate/hexanes) gave 0.87 g (30%) of the title compound as an yellow oil.

reactant | 1-(6-Mesitylpyridin-2-yl)pentan-2-ol | 10.3 mmol, 2.91 g | C1(=C(C(=CC(=C1)C)C)C1=CC=CC(=N1)CC(CCC)O)C | C19H25NO
reactant | N-methylmorpholine-N-oxide | 15.4 mmol, 1.80 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
catalyst | Tetrapropylammonium perruthenate | 1.54 mmol, 0.54 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 1-(6-Mesitylpyridin-2-yl)pentan-2-one | 0.87 g, 30% | C1(=C(C(=CC(=C1)C)C)C1=CC=CC(=N1)CC(CCC)=O)C | C19H23NO
